US07834039B2
To a slurry of 3-oxocyclopentanecarboxylic acid (0.123 g, 0.962 mmol) in DMF (1.0 ml) was added EDC (0.184 g, 0.962 mmol) followed by HOBT hydrate (0.130 g, 0.962 mmol). After about 1 h a solution of (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide (0.2 g, 0.875 mmol) in DMF (0.5 ml) was added and the reaction mixture was heated to about 140° C. for about 45 min. After cooling to room temperature the reaction mixture was concentrated in vacuo and purified by chromatography on silica gel (eluting with EtOAc/Hep) to provide 3-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)cyclopentanone (0.156 g, 56%) as a yellow oil. LCMS (Table 1, Method c) Rt=2.75 min, m/z 321 (M+H)+.

reactant | 3-oxocyclopentanecarboxylic acid | 0.962 mmol, 0.123 g | O=C1CC(CC1)C(=O)O | C6H8O3
reactant | EDC | 0.962 mmol, 0.184 g
reactant | HOBT hydrate | 0.962 mmol, 0.130 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide | 0.875 mmol, 0.2 g | ClC=1C=C(/C(/N)=N/O)C=CC1OC(C)C | C10H13ClN2O2
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 3-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)cyclopentanone | 0.156 g, 56% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1CC(CC1)=O | C16H17ClN2O3
